** sch_path: /foss/designs/ENGN1600-CAD4/XOR.sch
.subckt XOR IN0 IN1 OUT
*.PININFO OUT:O IN0:I IN1:I
M3 OUT Ab net1 vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M4 net1 IN0 vdd vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M1 OUT IN0 net2 GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M2 net2 IN1 GND GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M5 OUT Bb net3 vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M6 net3 IN1 vdd vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M7 OUT Ab net4 GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M8 net4 Bb GND GND nfet_03v3 L=0.28u W=1u nf=1 m=1
x1 Bb IN1 INV
x0 Ab IN0 INV
.ends

* expanding   symbol:  ENGN1600-CAD4/INV.sym # of pins=2
** sym_path: /foss/designs/ENGN1600-CAD4/INV.sym
** sch_path: /foss/designs/ENGN1600-CAD4/INV.sch
.subckt INV OUT IN
*.PININFO IN:I OUT:O
M1 OUT IN VDD VDD pfet_03v3 L=0.28u W=1u nf=1 m=1
M2 OUT IN GND GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends

.GLOBAL vdd
.GLOBAL GND
.GLOBAL VDD
